US08871753B2
Step B: 3-[(5-Chloro-2-{[3-(2-hydroxyethyl)phenyl]amino}pyrimidin-4-yl)(methyl)amino]phenol
The desired compound was prepared according to the procedure of Example D5, step B, using 2,5-dichloro-N-methyl-N-[3-(tetrahydro-2H-pyran-2-yloxy)phenyl]pyrimidin-4-amine and 2-(3-aminophenyl)ethanol [Bioorg. Med. Chem. 2005, 13, 6703-6712] as the starting materials in 59% yield. LCMS for C19H20ClN4O2 (M+H)+: m/z=371.1.

reactant | 2,5-dichloro-N-methyl-N-[3-(tetrahydro-2H-pyran-2-yloxy)phenyl]pyrimidin-4-amine | ClC1=NC=C(C(=N1)N(C1=CC(=CC=C1)OC1OCCCC1)C)Cl | C16H17Cl2N3O2
reactant | 2-(3-aminophenyl)ethanol | NC=1C=C(C=CC1)CCO | C8H11NO
product | 3-[(5-Chloro-2-{[3-(2-hydroxyethyl)phenyl]amino}pyrimidin-4-yl)(methyl)amino]phenol | 59% yield | ClC=1C(=NC(=NC1)NC1=CC(=CC=C1)CCO)N(C=1C=C(C=CC1)O)C | C19H19ClN4O2
